US06933295B2
5-Chloro-N-{1-oxo-2-[3-(silylmethyl)benzyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
Under argon and at 0° C., 5-chloro-2-thiophenecarbonyl chloride (1.7 g, 9.2 mmol) and 4-dimethylaminopyridine (93 mg, 0.8 mmol) are added to a solution of 4-amino-2-[3-(silylmethyl)benzyl]-1-isoindolinone (2.9 g, 7.7 mmol) in tetrahydrofuran (26 ml) and pyridine (12 ml). The reaction mixture is stirred at room temperature for 12 h, and water is added. After addition of dichloromethane and phase separation, the aqueous phase is extracted with dichloromethane. The combined organic phases are dried (sodium sulfate), filtered and concentrated under reduced pressure. The desired product is purified by flash chromatography (dichloromethane/methanol mixtures). Yield: 3.9 g, 97% of theory.

reactant | 5-chloro-2-thiophenecarbonyl chloride | 9.2 mmol, 1.7 g | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
reactant | 4-amino-2-[3-(silylmethyl)benzyl]-1-isoindolinone | 7.7 mmol, 2.9 g | NC1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)C[SiH3] | C16H18N2OSi
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.8 mmol, 93 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-N-{1-oxo-2-[3-(silylmethyl)benzyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)C[SiH3] | C21H19ClN2O2SSi
